### PR TITLE
[Merged by Bors] - refactor: define `<` on `WithBot`/`WithTop` as an inductive predicate

### PR DESCRIPTION
**Pull request by YaelDillies**
Follow up to #19668, where I did the same for `LE` but forgot to do it for `LT`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/OfScalars.lean [hunk 1]
```diff
@@ -268,7 +268,7 @@ theorem ofScalars_radius_eq_zero_of_tendsto [NormOneClass E]
   rw [← coe_zero, coe_le_coe]
   have := FormalMultilinearSeries.summable_norm_mul_pow _ hr
   contrapose! this
-  apply not_summable_of_ratio_norm_eventually_ge ENNReal.one_lt_two
+  refine not_summable_of_ratio_norm_eventually_ge (r := 2) (by simp) ?_ ?_
```
Comment (b-mehta) [inline Mathlib/Analysis/Analytic/OfScalars.lean:271]: Is this change necessary for the PR?

Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/OfScalars.lean:271]: Yes, the `ENNReal.one_lt_two` was proving that `(1 : Real) < (2 : Real)`!

File: Mathlib/Order/WithBot.lean [hunk 2]
```diff
@@ -249,16 +249,17 @@ section LE
 
 variable [LE α] {x y : WithBot α}
 
-/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`.
-
-Equivalently, `x ≤ y` can be defined as `∀ a : α, x = ↑a → ∃ b : α, y = ↑b ∧ a ≤ b`,
-see `le_if_forall`. The definition as an inductive predicate is preferred since it
-cannot be accidentally unfolded too far. -/
+/-- Auxiliary definition for the order on `WithBot`. -/
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:252]: If this is auxiliary, why not just private it?

File: Mathlib/Order/WithBot.lean [hunk 3]
```diff
@@ -307,28 +308,31 @@ section LT
...
 cannot be accidentally unfolded too far. -/
-instance (priority := 10) instLT : LT (WithBot α) where
-  lt
-  | ⊥, ⊥ => False
-  | (a : α), ⊥ => False
-  | ⊥, (b : α) => True
-  | (a : α), (b : α) => a < b
+instance (priority := 10) instLT : LT (WithBot α) where lt := WithBot.LT
+
+lemma lt_def : x < y ↔ (∃ b : α, x = ⊥ ∧ y = b) ∨ ∃ a b : α, a < b ∧ x = a ∧ y = b := lt_def_aux ..
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean]: This is a pretty weird statement. I'd either rewrite it as

```suggestion
lemma lt_def : x < y ↔ (x = ⊥ ∧ ∃ b : α, y = ↑b) ∨ ∃ a b : α, a < b ∧ x = a ∧ y = b := lt_def_aux ..
```
or private it altogether.

File: Mathlib/Order/WithBot.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:252]: because that messes up with `mk_iff` unfortunately

Comment (JovanGerb) [reply Mathlib/Order/WithBot.lean:252]: But surely there is the advantage of allowing people to use the `cases` tactic on this `inductive`? Is it really an implementation detail?

Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:252]: No, not really. You're right, I forgot to mention that. I think it's good for it not to be private

File: Mathlib/Analysis/Analytic/OfScalars.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Analysis/Analytic/OfScalars.lean:271]: Sorry, does this mean the statement of `ENNReal.one_lt_two` is now about real numbers? That needs to be fixed.

File: Mathlib/Order/WithBot.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Order/WithBot.lean]: (Similarly for `WithTop.lt_def`.)

File: Mathlib/Analysis/Analytic/OfScalars.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/OfScalars.lean:271]: No, it means that the previous proof was abusing defeq between `(1 : Real) < (2 : Real)` and `(1 : ENNReal) < (2 : ENNReal)`.

Comment (Vierkantor) [reply Mathlib/Analysis/Analytic/OfScalars.lean:271]: Ah got it! Then this is a good change. 👍

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors merge
